US06492348B1
(2R,3R,4R,5R)-4-(acetyloxy)-2-{2-chloro-6-[(1-ethylpropyl)amino]-9H-purin-9-yl}5-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate
(2R,3R,4R,5R)-4-(acetyloxy)-2-(2,6-dichloro-9H-purin-9-yl)-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate (125 mg) was dissolved in isopropanol (5 ml) and the solution was treated with diisopropylethylamine (0.06 ml) followed by 1-ethylpropylamine (0.044 ml). The mixture was heated at 50° C. under nitrogen for 16 h. The solvent was removed in vacuo and the mixture partitioned between ethyl acetate and 1 M hydrochloric acid. The organic layers were washed with saturated sodium bicarbonate solution and brine, dried (MgSO4) and evaporated in vacuo. Purification by chromatography on silica gel (Varian Bondelut cartridge), eluting with (i) dichloromethane, (ii) ether and (iii) ethyl acetate, gave the title compound as a colourless oil (108 mg).

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-(2,6-dichloro-9H-purin-9-yl)-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate | 125 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=NOC(=C1)CC)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C18H17Cl2N5O6
reactant | diisopropylethylamine | 0.06 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-ethylpropylamine | 0.044 ml | C(C)C(CC)N | C5H13N
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | (2R,3R,4R,5R)-4-(acetyloxy)-2-{2-chloro-6-[(1-ethylpropyl)amino]-9H-purin-9-yl}5-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate | 108 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=NOC(=C1)CC)N1C2=NC(=NC(=C2N=C1)NC(CC)CC)Cl | C23H29ClN6O6
